US07790720B2
A solution of 2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole-4-carboxylic acid i34 (0.5 g, 1.57 mmol, 1 eq), morpholine (0.15 g, 1.73 mmol, 1.1 eq) and triethylamine (0.44 ml, 3.14 mmol, 2 eq) in dichloromethane (20 ml) is cooled to 0° C. N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.33 g, 1.73 mmol, 1.1 eq) and 1-hydroxybenzotriazole (0.04 g, 0.31 mmol, 0.2 eq) are added to the solution and the mixture is stirred 24 h at room temperature. The mixture is then washed with water and a saturated solution of aqueous ammonium chloride. The organic layer is dried over magnesium sulfate, filtered and concentrated under vacuum to give 0.54 g of 4-({2-[4-(3-chloropropoxy)phenyl]-1,3-oxazol-4-yl}carbonyl)morpholine i35.

reactant | 2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole-4-carboxylic acid | ClCCCOC1=CC=C(C=C1)C=1OC=C(N1)C(=O)O | C13H12ClNO4
reactant | morpholine | 1.73 mmol, 0.15 g, 1.1 eq | N1CCOCC1 | C4H9NO
reactant | triethylamine | 3.14 mmol, 0.44 ml, 2 eq | C(C)N(CC)CC | C6H15N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.73 mmol, 0.33 g, 1.1 eq | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.31 mmol, 0.04 g, 0.2 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-({2-[4-(3-chloropropoxy)phenyl]-1,3-oxazol-4-yl}carbonyl)morpholine | 0.54 g, Yield: 98% | ClCCCOC1=CC=C(C=C1)C=1OC=C(N1)C(=O)N1CCOCC1 | C17H19ClN2O4
